US08293744B2
Step 8: Preparation of 2-(2-methylphenyl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one:
5-{[4-(1H-Pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazol[4,3-c]thieno[2,3-e]pyridazin-3-one (20 mg, 0.058 mmol), 2-iodotoluene (38 mg, 0.17 mmol, 3 equiv), copper(I) iodide (11 mg, 0.058 mmol, 1 equiv), (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine (24 mg, 0.17 mmol, 3 equiv) and potassium phosphate (86 mg, 0.41 mmol, 7 equiv) were combined in degassed N,N-dimethylformamide (3 mL) and placed into an oil bath preheated to 110° C. for 2 hours. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (25 mL, aqueous saturated) and extracted with ethyl acetate (2×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 5% methanol), providing the titled compound as a deep red solid: 1H-NMR (400 MHz, CDCl3) δ 7.91 (1H, d, J=2.5 Hz), 7.73-7.71 (3H, m), 7.66 (1H, d, J=5.6 Hz), 7.46-7.43 (3H, m), 7.36-7.27 (4H, m), 6.47 (1H, dd, J=2.4, 1.9 Hz), 5.83 (2H, s), 2.35 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 439.1336 [(M+H)+; calculated for C24H19N6OS: 439.1336].

reactant | 5-{[4-(1H-Pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazol[4,3-c]thieno[2,3-e]pyridazin-3-one | 0.058 mmol, 20 mg | N1(N=CC=C1)C1=CC=C(C=C1)CN1N=C2C(C3=C1C=CS3)=NNC2=O | C17H12N6OS
reactant | 2-iodotoluene | 0.17 mmol, 38 mg, 3 equiv | IC1=C(C=CC=C1)C | C7H7I
reactant | (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.17 mmol, 24 mg, 3 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 0.41 mmol, 86 mg, 7 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.058 mmol, 11 mg, 1 equiv | [Cu]I
product | 2-(2-methylphenyl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one | CC1=C(C=CC=C1)N1N=C2C(=NN(C3=C2SC=C3)CC3=CC=C(C=C3)N3N=CC=C3)C1=O | C24H18N6OS
